US07579359B2
A solution of N′-(4-chloroquinolin-3-yl)-N,N-dimethylimidoformamide (9.3 g, 0.040 mol) and O-isopropylhydroxylamine hydrochloride (5.0 g, 45 mmol) in ethanol (150 mL) was heated at reflux overnight. An analysis by LC/MS indicated the reaction was incomplete, and triethylamine (2.0 mL) was added. The reaction was heated at reflux for three hours and found to be incomplete. The ethanol was removed under reduced pressure, and toluene (150 mL) was added. The reaction was heated at reflux overnight but was found again to be incomplete. The toluene was removed under reduced pressure, and ethanol (150 mL) and additional O-isopropylhydroxylamine hydrochloride (1.0 g, 9.0 mmol) were added. The reaction was heated at reflux over night with additional O-isopropylhydroxylamine hydrochloride (0.5 g) added after three hours and again (0.4 g) after five hours. The work-up and purification procedures described in Part C of Example 19 were followed with the modification that chromatographic purification was carried out eluting with 5% methanol in dichloromethane containing 3 mL of aqueous ammonium hydroxide per liter of eluent. 1-Isopropoxy-1H-imidazo[4,5-c]quinoline (7.1 g) was obtained as a light red solid.

reactant | N′-(4-chloroquinolin-3-yl)-N,N-dimethylimidoformamide | 0.040 mol, 9.3 g | ClC1=C(C=NC2=CC=CC=C12)N=CN(C)C | C12H12ClN3
reactant | O-isopropylhydroxylamine hydrochloride | 45 mmol, 5.0 g | Cl.C(C)(C)ON
reactant | triethylamine | 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | O-isopropylhydroxylamine hydrochloride | 9.0 mmol, 1.0 g | Cl.C(C)(C)ON
reactant | O-isopropylhydroxylamine hydrochloride | 0.5 g | Cl.C(C)(C)ON
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 1-Isopropoxy-1H-imidazo[4,5-c]quinoline | 7.1 g | C(C)(C)ON1C=NC=2C=NC=3C=CC=CC3C21 | C13H13N3O
